US09278950B2
Step 1. tert-Butyl methyl {(3R,4S,5S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidine-3,4-diyl}biscarbamate
A vial was charged with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyran (104 mg, 0.493 mmol), dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine-(2′-aminobiphenyl-2-yl)(chloro)palladium (1:1) (35 mg, 0.045 mmol), and K3PO4 (180 mg, 0.849 mmol). The vial was sealed with a septum and purged with nitrogen three times). A solution of tert-butyl methyl [(3R,4S,5S)-1-(3-{[(3-{[(benzyloxy)carbonyl]amino}-7-bromoquinolin-2-yl)carbonyl]amino}pyridin-4-yl)-5-methylpiperidine-3,4-diyl]biscarbamate (200 mg, 0.262 mmol) in 1,4-dioxane (2.0 mL) was added, followed by deoxygenated water (0.50 mL, 28 mmol). The reaction was heated at 60° C. for 2 h. The mixture was purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with 0.1% NH4OH) to give the sub-title compound as a yellow solid (63.0 mg, 31%). LCMS calc. for C41H48N7O8 (M+H)+: m/z=766.4. Found: 766.4.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyran | 0.493 mmol, 104 mg | CC1(OB(OC1(C)C)C=1CCOCC1)C | C11H19BO3
reactant | K3PO4 | 0.849 mmol, 180 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tert-butyl methyl [(3R,4S,5S)-1-(3-{[(3-{[(benzyloxy)carbonyl]amino}-7-bromoquinolin-2-yl)carbonyl]amino}pyridin-4-yl)-5-methylpiperidine-3,4-diyl]biscarbamate | 0.262 mmol, 200 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)NC(OC)=O)NC(OC(C)(C)C)=O | C36H40BrN7O7
reactant | water | 28 mmol, 0.50 mL | O | H2O
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (2′-aminobiphenyl-2-yl)(chloro)palladium | 0.045 mmol, 35 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1.NC1=C(C=CC=C1)C1=C(C=CC=C1)[Pd]Cl
product | tert-Butyl methyl {(3R,4S,5S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidine-3,4-diyl}biscarbamate | 63.0 mg, 31% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)C=1CCOCC1)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)NC(OC)=O)NC(OC(C)(C)C)=O | C41H47N7O8
